US07160906B2
2-{3-dimethylamino-5-[2-(4-methyl-thiazol-5-yl)ethoxy]benzoylamino}-5-pyridine Carboxylic Acid (Route 8)
Formaldehyde (37% wt. in water) (0.021 ml, 0.75 mM) was added to a solution of 2-[3-amino-5-(4-methyl-thiazol-5-yl) ethoxy benzoyl]amino-5-pyridine carboxylic acid (0.10 g 0.25 mM) and 4A molecular sieves (0.25 g) in methanol (15 ml), under an inert atmosphere at room temperature. After 1 hr sodium cyanoborohydride (0.019 g, 0.3 mM) was added and the reaction mixture stirred for 40 hrs. The reaction mixture was filtered, concentrated in vacuo, 2M NaOH added to pH=11–12 then acidified with 2M HCl to precipitate a solid. The solid was filtered, washed with water, dried and purified on silica gel (5% to 12% MeOH/DCM) to give the title compound as a pale yellow solid (0.020 g, 19%); 1H NMR δ (d6-DMSO): 2.36 (s, 3H), 2.95 (m, 2H), 4.19 (dd, 2H), 6.39 (s, 1H), 6.92 (m, 2H), 6.99 (s, 1H), 8.27 (s, 2H), 8.83 (s, 1H), 8.88 (s, 1H), 11.02 (bs, 1H).

reactant | Formaldehyde | 0.75 mM, 0.021 ml | C=O | CH2O
reactant | 2-[3-amino-5-(4-methyl-thiazol-5-yl) ethoxy benzoyl]amino-5-pyridine carboxylic acid | 0.25 mM, 0.10 g | NC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)OCCC1=C(N=CS1)C | C19H18N4O4S
reactant | sodium cyanoborohydride | 0.3 mM, 0.019 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-{3-dimethylamino-5-[2-(4-methyl-thiazol-5-yl)ethoxy]benzoylamino}-5-pyridine Carboxylic Acid | 0.020 g, 19% | CN(C=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)OCCC1=C(N=CS1)C)C | C21H22N4O4S
